US07932271B2
2,5-Dibromo-4-[(2,5-difluorophenyl)hydroxymethyl]pyridine
Under an argon atmosphere, n-butyl lithium (a 1.59M hexane solution, 76 ml, 121 mmol) was added to a tetrahydrofuran (400 ml) solution of diisopropylamine (17 ml, 121 mmol) at −70° C. The reaction mixture was stirred for 1 hour. To the reaction mixture was added dropwise a tetrahydrofuran (100 ml) solution of 2,5-dibromopyridine and the resulting mixture was stirred for 2 hours. To the reaction mixture was added dropwise 2,5-difluorobenzaldehyde (15 ml, 139 mmol) and the mixture was stirred for 1 hour. After addition of water, the resulting mixture was concentrated under reduced pressure. The residue thus obtained was extracted with dichloromethane. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was washed with dichloromethane:hexane to yield a pale yellow powder. The filtrate was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=6:1 eluate was concentrated under reduced pressure. The residue thus obtained and the above-described pale yellow powder were combined to give the title compound (18.4 g, 48.6 mmol, 52%) as a pale yellow powder.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 121 mmol, 17 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 2,5-difluorobenzaldehyde | 139 mmol, 15 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.59M | CCCCCC | C6H14
product | 2,5-Dibromo-4-[(2,5-difluorophenyl)hydroxymethyl]pyridine | 48.6 mmol, 18.4 g, 52% | BrC1=NC=C(C(=C1)C(O)C1=C(C=CC(=C1)F)F)Br | C12H7Br2F2NO
